US04727073
A mixture of 1-acetyl-1-(3-nitrobenzyliden)acetone (10 g), benzamidine hydrochloride (8.06 g) and triethylamine (8.4 ml) in n-butanol (100 ml) was refluxed for 2 hours. The reaction mixture was added ethyl acetate (100 ml), washed with water (100 ml) and 5% hydrochloric acid (100 ml) successively. The solvent was evaporated and the residue was stirred with ethyl acetate (100 ml) for 1 hour. The crystals were collected by filtration, added a mixture of chloroform (100 ml) and water (100 ml) and adjusted to pH 8.5 by saturated potassium carbonate. The organic layer was evaporated in vacuo to give 5-acetyl-4-methyl-6-(3-nitrophenyl)-2-phenyl-1,6-dihydropyrimidine (4.46 g).

reactant | 1-acetyl-1-(3-nitrobenzyliden)acetone | 10 g | C(C)(=O)C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-] | C12H11NO4
reactant | benzamidine hydrochloride | 8.06 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | triethylamine | 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 5-acetyl-4-methyl-6-(3-nitrophenyl)-2-phenyl-1,6-dihydropyrimidine | 4.46 g | C(C)(=O)C1=C(N=C(NC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)C | C19H17N3O3
